2163-09-12 17:49:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M COPD, TBM, y-stent in place and longstanding problem with [**Name2 (NI) **],
   congestion, dyspnea. His respiratory status has been worsening on a
   subacute basis. Presented today because of worsening SOB and somnolence
   for bronch.
   During bronch, secretions seen throughout right. Post-bronch
   complicated by somnolence, hypoxemia and hypoventialtion. He was put on
   higher O2 and improved.
   Plan is for stent replacement in 2 days in OR.
   24 Hour Events:
                                History obtained from housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   COPD
   TBM - s/p Y-stent
   RUL resection NSCLCa.
   recurrent NSCLCa. - s/p CK, recent concerning PET/CT for progressive
   disease in RLL and LNs
   active smoker
   OSA - untreated
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-12**] 05:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 105 (103 - 105) bpm
   BP: 141/59(77) {141/59(77) - 141/59(77)} mmHg
   RR: 28 (22 - 28) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87% 3L NC
   ABG: ////
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds:  some Wheezes, significant rhonchi
   Abd benign
   Neurologic: Attentive, Follows simple commands, Responds to questions
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   Resp distress post bronch - status has been worsening over past number
   of weeks. Has a number of possible explanations including COPD,
   infection, progressive TBM, stent obstruction and cancer progression.
   Will treat COPD flare with steroids, bronchodilators, antibiotics.
   Check CXR. BIPAP overnight. Stent replacement per IP.
   Lung cancer - does not appear that there are treatment options.
   Continue supportive care.
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2163-09-12 17:49:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M COPD, TBM, y-stent in place and longstanding problem with [**Name2 (NI) **],
   congestion, dyspnea. His respiratory status has been worsening on a
   subacute basis. Presented today because of worsening SOB and somnolence
   for bronch.
   During bronch, secretions seen throughout right. Post-bronch
   complicated by somnolence, hypoxemia and hypoventialtion. He was put on
   higher O2 and improved.
   Plan is for stent replacement in 2 days in OR.
   24 Hour Events:
                                History obtained from housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   COPD
   TBM - s/p Y-stent
   RUL resection NSCLCa.
   recurrent NSCLCa. - s/p CK, recent concerning PET/CT for progressive
   disease in RLL and LNs
   active smoker
   OSA - untreated
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-12**] 05:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 105 (103 - 105) bpm
   BP: 141/59(77) {141/59(77) - 141/59(77)} mmHg
   RR: 28 (22 - 28) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87% 3L NC
   ABG: ////
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   Resp distress post bronch - status has been worsening over past number
   of weeks. Has a number of possible explanations including COPD,
   infection, progressive TBM and cancer progression. Will treat COPD
   flare with steroids, bronchodilators, antibiotics. Check CXR. BIPAP
   overnight. Stent replacement per IP.
   Lung cancer - does not appear that there are treatment options.
   Continue supportive care.
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2163-09-13 07:28:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 EKG - At [**2163-9-12**] 05:36 PM
 NON-INVASIVE VENTILATION - START [**2163-9-12**] 06:08 PM
   - admitted yesterday afternoon
   - attempted Bipap but pt only tolerated for a few hours and then slept
   with 3 L NC instead
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-13**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 87 (79 - 113) bpm
   BP: 88/40(53) {88/40(53) - 141/79(93)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    545 mL
                  PO:
                                                                    545 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    780 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/62/69/39/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   659 K/uL
   9.4 g/dL
   148 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   11 mg/dL
   90 mEq/L
   133 mEq/L
   32.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
   WBC
   20.8
   21.0
   Hct
   31.9
   32.9
   Plt
   614
   659
   Cr
   0.5
   0.5
   TCO2
   43
   Glucose
   93
   148
   Other labs: Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2163-09-13 07:28:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 EKG - At [**2163-9-12**] 05:36 PM
 NON-INVASIVE VENTILATION - START [**2163-9-12**] 06:08 PM
   - admitted yesterday afternoon
   - attempted Bipap but pt only tolerated for a few hours and then slept
   with 3 L NC instead
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-13**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 87 (79 - 113) bpm
   BP: 88/40(53) {88/40(53) - 141/79(93)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    545 mL
                  PO:
                                                                    545 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    780 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/62/69/39/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   659 K/uL
   9.4 g/dL
   148 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   11 mg/dL
   90 mEq/L
   133 mEq/L
   32.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
   WBC
   20.8
   21.0
   Hct
   31.9
   32.9
   Plt
   614
   659
   Cr
   0.5
   0.5
   TCO2
   43
   Glucose
   93
   148
   Other labs: Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife treatment in
   [**2158**], s/p flex bronchoscopy, now admitted to MICU for COPD exacerbation
   and closer respiratory monitoring (needing bipap)
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture
   - IV solumedrol
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production
   - BiPAP overnight
   - continue Mucomyst, Mucinex, Advair
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP.
   - BiPAP
   - ABGs
   .
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on Wednesday to exchange stent and debridement
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO after MN for OR
   # PPX: omeprazole (home), heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient)
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2163-09-13 07:28:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 EKG - At [**2163-9-12**] 05:36 PM
 NON-INVASIVE VENTILATION - START [**2163-9-12**] 06:08 PM
   - admitted yesterday afternoon
   - attempted Bipap but pt only tolerated for a few hours and then slept
   with 3 L NC instead
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-13**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 87 (79 - 113) bpm
   BP: 88/40(53) {88/40(53) - 141/79(93)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    545 mL
                  PO:
                                                                    545 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    780 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/62/69/39/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   659 K/uL
   9.4 g/dL
   148 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   11 mg/dL
   90 mEq/L
   133 mEq/L
   32.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
   WBC
   20.8
   21.0
   Hct
   31.9
   32.9
   Plt
   614
   659
   Cr
   0.5
   0.5
   TCO2
   43
   Glucose
   93
   148
   Other labs: Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife treatment in
   [**2158**], s/p flex bronchoscopy, now admitted to MICU for COPD exacerbation
   and closer respiratory monitoring (needing bipap)
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture
   - solumedrol 60mg IV bid
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production
   -  consider retrying BIPAP if pt agreeable
   - continue Mucomyst, Mucinex, Advair
   .
   # Leukocytosis:
   - add on diff
   - check UA/Ucx and blood cx for further evaluation
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP. Now
   improved. Reck ABG if worsening somnolence
   - BiPAP
   - ABGs
   .
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on Wednesday to exchange stent and debridement
   - NPO past M/N
   .
   # Squamous cell CA: Rad onc Dr [**First Name (STitle) 6000**]
   - f/u Dr. [**First Name (STitle) 6000**] as outpatient
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO after MN for OR
   # PPX: omeprazole (home), heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient). If pt requiring aggressive life
   saving measures x 3 days, would prefer to withdraw care.
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2163-9-13**] 15:19 ------

2163-09-13 07:28:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 EKG - At [**2163-9-12**] 05:36 PM
 NON-INVASIVE VENTILATION - START [**2163-9-12**] 06:08 PM
   - admitted yesterday afternoon
   - attempted Bipap but pt only tolerated for a few hours and then slept
   with 3 L NC instead
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-13**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 87 (79 - 113) bpm
   BP: 88/40(53) {88/40(53) - 141/79(93)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    545 mL
                  PO:
                                                                    545 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    780 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/62/69/39/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   659 K/uL
   9.4 g/dL
   148 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   11 mg/dL
   90 mEq/L
   133 mEq/L
   32.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
   WBC
   20.8
   21.0
   Hct
   31.9
   32.9
   Plt
   614
   659
   Cr
   0.5
   0.5
   TCO2
   43
   Glucose
   93
   148
   Other labs: Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife treatment in
   [**2158**], s/p flex bronchoscopy, now admitted to MICU for COPD exacerbation
   and closer respiratory monitoring (needing bipap)
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture
   - solumedrol 60mg IV bid
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production
   -  consider retrying BIPAP if pt agreeable
   - continue Mucomyst, Mucinex, Advair
   .
   # Leukocytosis:
   - add on diff
   - check UA/Ucx and blood cx for further evaluation
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP. Now
   improved. Reck ABG if worsening somnolence
   - BiPAP
   - ABGs
   .
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on Wednesday to exchange stent and debridement
   - NPO past M/N
   .
   # Squamous cell CA: Rad onc Dr [**First Name (STitle) 6000**]
   - f/u Dr. [**First Name (STitle) 6000**] as outpatient
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO after MN for OR
   # PPX: omeprazole (home), heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient). If pt requiring aggressive life
   saving measures x 3 days, would prefer to withdraw care.
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2163-09-13 09:50:00 Physician Attending Progress Note
Chief Complaint: Somnolence and hypoxia s/p bronchoscopy.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted. Stable overnight. Declined bipap after 30minute trial.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-13**] 04:30 AM
   Other medications:
   azithromycin , methylprednisonlone 125 iv q8, albuterol atroven,
   advair, fentanyl patch, HCTZ, synthroid, MVi, simvastatin, quinipril,
   naproxen, lopressor, mucinex.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-13**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 95 (79 - 113) bpm
   BP: 117/57(69) {88/40(53) - 141/79(93)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    545 mL
                  PO:
                                                                    545 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    780 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 90%
   ABG: 7.43/62/69/39/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 69
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   659 K/uL
   148 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   11 mg/dL
   90 mEq/L
   133 mEq/L
   32.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
   WBC
   20.8
   21.0
   Hct
   31.9
   32.9
   Plt
   614
   659
   Cr
   0.5
   0.5
   TCO2
   43
   Glucose
   93
   148
   Other labs: Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR Rt costophrenic area iwth thickening. no consolidation
   Microbiology: Sputum culture pending
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA):
   s/p Y stent, plan for OR for replacement of stent in am. NPO tonight.
 COPD/OSA:  patient intolerant of Bipap. stabilized with clearing of
   sedation. currently ABG much improved. continue steroids at lower dose
   x 3 days 60mg solumdedrol [**Hospital1 **].
 NSCLC: likely recurrence in RLL, options appear to be limited. [**Month (only) 51**] be
   a candidate for paliative chemotherapy.
 Leukocytosis: ? related to steroids, vs malignancy and leukamoid
   reaction. will pan culture, no infiltrate on CXR, but significant
   secretions per patient will follow up sputum culture to r/o other more
   resistant bacterial pathogens. Will contineu azithro for COPD
   exacerbation.
   ICU Care
   Nutrition: po diet.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU

2163-09-14 07:42:00 Physician Resident Progress Note
ICU RESIDENT PROGRESS NOTE
   24 Hour Events:
   [**9-13**]
   Decreased steroids to 60 IV bid
   UA negative
   Worsening hyponatremia. LOS negative. Gave trial of NS IVFs. Repeat
   lytes in AM improved with NS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 03:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 92 (75 - 102) bpm
   BP: 134/77(92) {91/31(45) - 139/77(92)} mmHg
   RR: 19 (11 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    638 mL
   PO:
                                                                  1,120 mL
             TF:
   IVF:
   638 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,100 mL
   Urine:
                                                                  1,525 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -405 mL
                                                                   -462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   660 K/uL
   9.2 g/dL
   121 mg/dL
   0.6 mg/dL
   38 mEq/L
   5.1 mEq/L
   15 mg/dL
   91 mEq/L
   134 mEq/L
   30.9 %
   25.1 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
                             [**2163-9-13**]  03:29 PM
                             [**2163-9-13**]  05:44 PM
                             [**2163-9-14**]  03:25 AM
   WBC
   20.8
   21.0
   18.9
   25.1
   Hct
   31.9
   32.9
   29.5
   30.9
   Plt
   [**Telephone/Fax (3) 10046**]60
   Cr
   0.5
   0.5
   0.7
   0.7
   0.6
   TCO2
   43
   Glucose
   93
   148
   88
   121
   Other labs: Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
[**2163-9-13**] 8:02 am SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2163-9-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife for
   recurrence, s/p flex bronchoscopy, now admitted to MICU for COPD
   exacerbation and closer respiratory monitoring.
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture, no growth to date
   - solumedrol 60 IV daily
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production, on
   day [**3-3**]
   - continue Mucomyst, Mucinex, Advair
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on [**9-14**] for exchange stent and debridement
   - NPO for procedure
   .
   # Leukocytosis: likely secondary to IV steriods, but could have
   possible infection.
   - monitor WBC
   - f/u cx
   - CIS
   - if starts to have diarrhea will check c. diff, since been on abx
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP. Now
   improved.
   - Recheck ABG if worsening somnolence
   .
   # Squamous cell CA: Rad onc Dr [**First Name (STitle) 6000**]
   - f/u Dr. [**First Name (STitle) 6000**] as outpatient
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO after MN for OR
   # PPX: omeprazole (home), heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient). If pt requiring aggressive life
   saving measures x 3 days, would prefer to withdraw care.
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: NPO for procedure today
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   20 Gauge - [**2163-9-14**] 03:38 AM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: procedure today, then if stable transfer to floor

2163-09-14 07:42:00 Physician Resident Progress Note
ICU RESIDENT PROGRESS NOTE
   24 Hour Events:
   [**9-13**]
   Decreased steroids to 60 IV bid
   UA negative
   Worsening hyponatremia. LOS negative. Gave trial of NS IVFs. Repeat
   lytes in AM improved with NS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 03:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 92 (75 - 102) bpm
   BP: 134/77(92) {91/31(45) - 139/77(92)} mmHg
   RR: 19 (11 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    638 mL
   PO:
                                                                  1,120 mL
             TF:
   IVF:
   638 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,100 mL
   Urine:
                                                                  1,525 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -405 mL
                                                                   -462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   660 K/uL
   9.2 g/dL
   121 mg/dL
   0.6 mg/dL
   38 mEq/L
   5.1 mEq/L
   15 mg/dL
   91 mEq/L
   134 mEq/L
   30.9 %
   25.1 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
                             [**2163-9-13**]  03:29 PM
                             [**2163-9-13**]  05:44 PM
                             [**2163-9-14**]  03:25 AM
   WBC
   20.8
   21.0
   18.9
   25.1
   Hct
   31.9
   32.9
   29.5
   30.9
   Plt
   [**Telephone/Fax (3) 10046**]60
   Cr
   0.5
   0.5
   0.7
   0.7
   0.6
   TCO2
   43
   Glucose
   93
   148
   88
   121
   Other labs: Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
[**2163-9-13**] 8:02 am SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2163-9-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife for
   recurrence, s/p flex bronchoscopy, now admitted to MICU for COPD
   exacerbation and closer respiratory monitoring.
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture, no growth to date
   - solumedrol 60 IV daily
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production, on
   day [**3-3**]
   - continue Mucomyst, Mucinex, Advair
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on [**9-14**] for exchange stent and debridement
   - NPO for procedure
   .
   # Leukocytosis: likely secondary to IV steriods, but could have
   possible infection.
   - monitor WBC
   - f/u cx
   - CIS
   - if starts to have diarrhea will check c. diff, since been on abx
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP. Now
   improved.
   - Recheck ABG if worsening somnolence
   .
   # Squamous cell CA: Rad onc Dr [**First Name (STitle) 6000**]
   - f/u Dr. [**First Name (STitle) 6000**] as outpatient
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO for OR
   # PPX: omeprazole (home), heparin SQ (hold today for OR), bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient). If pt requiring aggressive life
   saving measures x 3 days, would prefer to withdraw care.
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: NPO for procedure today, then advance diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   20 Gauge - [**2163-9-14**] 03:38 AM
   Prophylaxis:
   DVT: hep sq (hold for procedure)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: procedure today, then if stable transfer to floor

2163-09-14 07:42:00 Physician Resident Progress Note
ICU RESIDENT PROGRESS NOTE
   24 Hour Events:
   [**9-13**]
   Decreased steroids to 60 IV bid
   UA negative
   Worsening hyponatremia. LOS negative. Gave trial of NS IVFs. Repeat
   lytes in AM improved with NS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 03:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 92 (75 - 102) bpm
   BP: 134/77(92) {91/31(45) - 139/77(92)} mmHg
   RR: 19 (11 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    638 mL
   PO:
                                                                  1,120 mL
             TF:
   IVF:
   638 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,100 mL
   Urine:
                                                                  1,525 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -405 mL
                                                                   -462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   660 K/uL
   9.2 g/dL
   121 mg/dL
   0.6 mg/dL
   38 mEq/L
   5.1 mEq/L
   15 mg/dL
   91 mEq/L
   134 mEq/L
   30.9 %
   25.1 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
                             [**2163-9-13**]  03:29 PM
                             [**2163-9-13**]  05:44 PM
                             [**2163-9-14**]  03:25 AM
   WBC
   20.8
   21.0
   18.9
   25.1
   Hct
   31.9
   32.9
   29.5
   30.9
   Plt
   [**Telephone/Fax (3) 10046**]60
   Cr
   0.5
   0.5
   0.7
   0.7
   0.6
   TCO2
   43
   Glucose
   93
   148
   88
   121
   Other labs: Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
[**2163-9-13**] 8:02 am SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2163-9-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife for
   recurrence, s/p flex bronchoscopy, now admitted to MICU for COPD
   exacerbation and closer respiratory monitoring.
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture, no growth to date
   - solumedrol 60 IV daily
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production, on
   day [**3-3**]
   - continue Mucomyst, Mucinex, Advair
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on [**9-14**] for exchange stent and debridement
   - NPO for procedure
   .
   # Leukocytosis: likely secondary to IV steriods, but could have
   possible infection.
   - monitor WBC
   - f/u cx
   - CIS
   - if starts to have diarrhea will check c. diff, since been on abx
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP. Now
   improved.
   - Recheck ABG if worsening somnolence
   .
   # Squamous cell CA: Rad onc Dr [**First Name (STitle) 6000**]
   - f/u Dr. [**First Name (STitle) 6000**] as outpatient
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO for OR
   # PPX: omeprazole (home), heparin SQ (hold today for OR), bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient). If pt requiring aggressive life
   saving measures x 3 days, would prefer to withdraw care.
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: NPO for procedure today, then advance diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   20 Gauge - [**2163-9-14**] 03:38 AM
   Prophylaxis:
   DVT: hep sq (hold for procedure)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: procedure today, then if stable transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2163-9-14**] 14:25 ------

2163-09-14 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-13**]
   Decreased steroids to 60 IV bid
   UA negative
   Worsening hyponatremia. LOS negative. Gave trial of NS IVFs. Repeat
   lytes in AM improved with NS.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 03:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 92 (75 - 102) bpm
   BP: 134/77(92) {91/31(45) - 139/77(92)} mmHg
   RR: 19 (11 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    638 mL
   PO:
                                                                  1,120 mL
             TF:
   IVF:
   638 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,100 mL
   Urine:
                                                                  1,525 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -405 mL
                                                                   -462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   660 K/uL
   9.2 g/dL
   121 mg/dL
   0.6 mg/dL
   38 mEq/L
   5.1 mEq/L
   15 mg/dL
   91 mEq/L
   134 mEq/L
   30.9 %
   25.1 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
                             [**2163-9-13**]  03:29 PM
                             [**2163-9-13**]  05:44 PM
                             [**2163-9-14**]  03:25 AM
   WBC
   20.8
   21.0
   18.9
   25.1
   Hct
   31.9
   32.9
   29.5
   30.9
   Plt
   [**Telephone/Fax (3) 10046**]60
   Cr
   0.5
   0.5
   0.7
   0.7
   0.6
   TCO2
   43
   Glucose
   93
   148
   88
   121
   Other labs: Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
[**2163-9-13**] 8:02 am SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2163-9-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
 LEUKOCYTOSIS
 ELECTROLYTE & FLUID DISORDER, OTHER
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   67 y.o. M with end stage COPD, tracheobronchomalacia s/p Y-stent, s/p
   RUL resection for squamous cell carcinoma with Cyberknife treatment in
   [**2158**], s/p flex bronchoscopy, now admitted to MICU for COPD exacerbation
   and closer respiratory monitoring (needing bipap)
   .
   # COPD exacerbation: Likely in flare given decreased BS in lung exam,
   diffuse wheezes.
   - f/u sputum culture, no growth to date
   - solumedrol 60mg IV bid
   - standing albuterol / ipratropium
   - O2 goal 88-93%
   - treat with azithryomycin x 5 days for increased sputum production, on
   day [**3-3**]
   - consider retrying BIPAP if pt agreeable
   - continue Mucomyst, Mucinex, Advair
   .
   # Leukocytosis: likely secondary to IV steriods, but could have
   possible infection.
   - monitor WBC
   - f/u cx
   - if starts to have diarrhea will check c. diff, since been on abx
   .
   # Chronic respiratory acidosis: Given history of worsening somnolence,
   likely worsening hypercarbia/OSA in setting of not using CPAP. Now
   improved. Reck ABG if worsening somnolence
   - BiPAP, pt refusing
   - ABGs
   .
   # Tracheobronchomalacia
   - appreciate IP recs
   - OR on [**9-14**] for exchange stent and debridement
   - NPO for procedure
   .
   # Squamous cell CA: Rad onc Dr [**First Name (STitle) 6000**]
   - f/u Dr. [**First Name (STitle) 6000**] as outpatient
   .
   # HTN:
   - continue metoprolol tartrate, quinapril and HCTZ
   .
   # Hyperlipidemia:
   - continue simvastatin
   .
   # Hypothyroidism:
   - continue levothyroxine
   .
   # Pain:
   - continue naprosyn and fentanyl patch
   - percocet prn pain
   .
   # Gout:
   - Allopurinol 100 mg po daily
   .
   # FEN: no IVFs / replete lytes prn / cardiac diet, NPO after MN for OR
   # PPX: omeprazole (home), heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL (confirmed with patient). If pt requiring aggressive life
   saving measures x 3 days, would prefer to withdraw care.
   # CONTACT:  [**Name (NI) **] (daughter) [**Telephone/Fax (1) 10007**]
   # DISPO:  ICU for now
   ICU Care
   Nutrition: NPO for procedure today
   Glycemic Control:
   Lines:
   22 Gauge - [**2163-9-12**] 05:06 PM
   20 Gauge - [**2163-9-14**] 03:38 AM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: procedure today, then if stable transfer to floor

2163-09-14 11:08:00 Physician Attending Progress Note
Chief Complaint: Hypoxia, hypercarbia with TBM and stent obstruction.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night awaiting OR for stent replacement today.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-9-14**] 03:33 AM
   Other medications:
   azithromycin, albuterol nebs, mucomyst, advair, HCTZ, synthroid, asa,
   simvastatin, quinipril, omeprazole, naproxen, dextromethorphan,
   methylprednisolone.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-9-14**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 93 (73 - 98) bpm
   BP: 123/56(70) {91/31(45) - 139/77(92)} mmHg
   RR: 17 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    972 mL
   PO:
                                                                  1,120 mL
             TF:
   IVF:
   972 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  2,250 mL
   Urine:
                                                                  1,525 mL
                                                                  2,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -405 mL
                                                                 -1,278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3L
   SpO2: 99%
   ABG: ///38/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), difficult to
   assess heart sounds clearly due to loud rhonchi
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   660 K/uL
   121 mg/dL
   0.6 mg/dL
   38 mEq/L
   5.1 mEq/L
   15 mg/dL
   91 mEq/L
   134 mEq/L
   30.9 %
   25.1 K/uL
        [image002.jpg]
                             [**2163-9-12**]  06:26 PM
                             [**2163-9-12**]  06:48 PM
                             [**2163-9-13**]  03:31 AM
                             [**2163-9-13**]  03:29 PM
                             [**2163-9-13**]  05:44 PM
                             [**2163-9-14**]  03:25 AM
   WBC
   20.8
   21.0
   18.9
   25.1
   Hct
   31.9
   32.9
   29.5
   30.9
   Plt
   [**Telephone/Fax (3) 10046**]60
   Cr
   0.5
   0.5
   0.7
   0.7
   0.6
   TCO2
   43
   Glucose
   93
   148
   88
   121
   Other labs: Differential-Neuts:97.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Microbiology: sputum multiple organisms c/w oral flora
   Assessment and Plan
 LEUKOCYTOSIS:
   cultures are negative to date, on solumedrol. Continue to monitor.
 ELECTROLYTE & FLUID DISORDER, OTHER
   Hyperkalemia: trendign down. continue to monitor.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:
   wean steroids to 30 of columedrol [**Hospital1 **] x1 more day. Contineu azithro and
   nebs.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   For Y stent exchange and debridement in OR today.
   ICU Care
   Nutrition: NPO for procedure.
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-9-14**] 03:38 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes